US07414052B2
A solution of (2RS,3RS)-3-indol-1-yl-3-phenyl-propane-1,2-diol (1.83 g, 6.8 mmol) and p-toluenesulfonyl chloride (1.31 g, 6.8 mmol) in anhydrous pyridine (10 mL) was stirred at room temperature under nitrogen for 15 hours. The mixture was then diluted with water (10 mL), quenched with a 2N aqueous solution of hydrochloric acid in an ice/water bath until the solution was pH=3, and extracted with dichloromethane. The organic layer was washed with water again, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified via Biotage chromatography (FlasH40i, silica, 10%, 25% EtOAc/hexane) to yield 1.98 g (69%) of (2RS,3RS)-toluene-4-sulfonic acid 2-hydroxy-3-indol-1-yl-3-phenyl-propyl ester as a white solid. 1HNMR (DMSO): δ3.70 and δ3.85 (dd and dd, 2H, CH2OTs), δ4.80 (m, 1H, CHOH), δ5.52 (d, 1H, CHPh), δ5.82 (d, 1H, CHOH); MS (ESI) m/z 422 ([M+H]+).

reactant | (2RS,3RS)-3-indol-1-yl-3-phenyl-propane-1,2-diol | 6.8 mmol, 1.83 g | N1(C=CC2=CC=CC=C12)C(C(CO)O)C1=CC=CC=C1 | C17H17NO2
reactant | p-toluenesulfonyl chloride | 6.8 mmol, 1.31 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 10 mL | O | H2O
product | (2RS,3RS)-toluene-4-sulfonic acid 2-hydroxy-3-indol-1-yl-3-phenyl-propyl ester | 1.98 g, 69% | OC(COS(=O)(=O)C1=CC=C(C=C1)C)C(C1=CC=CC=C1)N1C=CC2=CC=CC=C12 | C24H23NO4S
